US06610727B2
2,3,9,10-Tetrafluoro-12-(2—O-benzyl-3, 6-anhydro-4-deoxy-β-D-glucopyranosyl)-6,7,12,13-tetrahydro(5H)indolo[2, 3-a]pyrrolo[3,4-c]carbazole-5,7-dione:
To a solution of 2,3,9,10-tetrafluoro-12-(2—O-benzyl-4-deoxy-β-D-glucopyranosyl)-6,7,12,13-tetrahydro(5H)indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7-dione (0.018 g, 0.028 mmol) in 0.5 mL of dry pyridine was added a solution of triphenylphosphine (0.022 mg, 0.084 mmol) in 0.1 mL of dry pyridine and then diisopropyl azodicarboxylate (DIAD) (0.017 mL, 0.084 mmol) was added dropwise at room temperature under Ar. The resulting blood-red mixture was stirred at room temperature under Ar for 16 h and then it was quenched by adding water (0.1 mL), followed by methanol (0.1 mL). This mixture was evaporated in vacuo and the residue was purified using preparative tlc (4×20×20 cm plates, 0.5 mm SiO2/ CH2Cl2-MeCN, 9:1) to give the title compound (0.007 g, 41%) as a bright yellow solid: 1H NMR (THF-d8, 400 MHz) δ.10.83 (br s, 1H), 10.08 (br s, 1H), 9.12 (dd, J=11.0, 8.6 Hz, 1H), 9.02 (dd, J=11.0, 8.4 Hz, 1H), 7.72 (m, 1H), 7.36 (m, 1H), 6.83 (t, J=7.4 Hz, 1H), 6.70 (t, J=7.6 Hz, 2H), 6.59 (d, J=7.6 Hz, 2H), 6.23 (d, J=7.4 Hz, 1H), 4.93(s, 1H), 4.76 (d, J=6.0 Hz, 1H), 4.41 (d, J=11.7 Hz, 1H), 4.31 (d, J=8.9 Hz, 1H), 4.29 (d, J=10.2 Hz, 1H), 4.13 (d, J=11.7 Hz, 1H), 3.87 (d, J=9.2 Hz, 1H), 3.10 (d, J=13.4 Hz, 1H), 2.10 (dd, J=13.4, 6.0 Hz); MS (ESI−) m/e 614 (M−H)−.

reactant | 2,3,9,10-tetrafluoro-12-(2—O-benzyl-4-deoxy-β-D-glucopyranosyl)-6,7,12,13-tetrahydro(5H)indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7-dione | 0.028 mmol, 0.018 g | FC=1C(=CC2=C(C1)NC1=C2C2=C(C=3C4=CC(=C(C=C4N(C13)[C@H]1[C@H](OCC3=CC=CC=C3)[C@@H](O)C[C@H](O1)CO)F)F)C(NC2=O)=O)F | C33H23F4N3O6
reactant | triphenylphosphine | 0.084 mmol, 0.022 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.084 mmol, 0.017 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 0.1 mL | N1=CC=CC=C1 | C5H5N
product | 2,3,9,10-Tetrafluoro-12-(2—O-benzyl-3, 6-anhydro-4-deoxy-β-D-glucopyranosyl)-6,7,12,13-tetrahydro(5H)indolo[2, 3-a]pyrrolo[3,4-c]carbazole-5,7-dione | 0.007 g, 41% | FC=1C(=CC2=C(C1)NC1=C2C2=C(C=3C4=CC(=C(C=C4N(C13)[C@H]1[C@H](OCC3=CC=CC=C3)[C@@H]3C[C@H](O1)CO3)F)F)C(NC2=O)=O)F | C33H21F4N3O5
